* C:\Users\ASUS\OneDrive - Chiang Mai University\Documents\LTspiceXVII\252330 lab\bjt-amp-lab\1-2.asc
Vin Vin 0 SINE(0 10m 1k) AC 1 0
C1 N002 Vin 10µ
R1 N002 0 12k
R2 N001 N002 68k
Q1 N001 N002 N003 0 q2sc458
R3 N003 0 1k
C2 Vout N003 10µ
RL Vout 0 100Meg
VCC N001 0 10
.model NPN NPN
.model PNP PNP
.lib C:\Users\ASUS\OneDrive - Chiang Mai University\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 10 10 100Meg
.backanno
.end
